US06914074B2
4-(6-Hydroxy-2-naphthyl)-3-methoxyphenyl 4-methylbenzenesulfonate
4-Bromo-3-methoxyphenyl 4-methylbenzenesulfonate A mixture of 4-bromo-resorcinol (4.92 g, 26.0 mmol), p-toluenesulfonic chloride (5.95 g, 31.2 mmol), potassium carbonate (23 g, 167 mmol), and acetone (300 mL) was refluxed for 16 hr. Iodomethane (9.89 g, 70 mmol) was added and the mixture was refluxed for an additional 12 hr. The mixture was cooled to room temperature and ether (200 mL) was added and the suspension was filtered. The filtrate was stripped of solvent and purified on a silica column (10% ethyl acetate—hexanes) to yield 6.49 g (70%) of the title compound as a white solid.

reactant | 4-Bromo-3-methoxyphenyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC(=C(C=C1)Br)OC | C14H13BrO4S
reactant | 4-bromo-resorcinol | 26.0 mmol, 4.92 g | BrC1=C(C=C(O)C=C1)O | C6H5BrO2
reactant | p-toluenesulfonic chloride | 31.2 mmol, 5.95 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | potassium carbonate | 167 mmol, 23 g | C([O-])([O-])=O.[K+].[K+]
reactant | Iodomethane | 70 mmol, 9.89 g | IC | CH3I
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 4-(6-Hydroxy-2-naphthyl)-3-methoxyphenyl 4-methylbenzenesulfonate | 6.49 g, 70% | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC(=C(C=C1)C1=CC2=CC=C(C=C2C=C1)O)OC | C24H20O5S
